2126-12-21 08:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: fever, altered mental status
   24 Hour Events:
 MIDLINE - START [**2126-12-21**] 12:10 AM
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2126-12-21**] 03:00 AM
   Other medications:
   Flowsheet Data as of  [**2126-12-21**] 08:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 96 (86 - 111) bpm
   BP: 79/54(60) {79/54(60) - 110/73(80)} mmHg
   RR: 14 (14 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             1,500 mL
   PO:
             TF:
   IVF:
   1,500 mL
   Blood products:
   Total out:
                                                                    120 mL
                                                                    205 mL
   Urine:
                                                                    120 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -120 mL
                                                                  1,295 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 713 (416 - 752) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Vent Dependant, No Spon Resp
   PIP: 23 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: 7.40/58/155/32/9
   Ve: 6 L/min
   PaO2 / FiO2: 388
   Physical Examination
   General: no response to voice, but arouses quickly to sternal rub,
   denies pain (shakes head).
   HEENT: MMM
   Lungs: Clear to auscultation anteriorly, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding
   NEURO: moves all four extremities spontaneously, pupils symmetric.
   withdraws upper extremities to pain.
   Ext: warm, well perfused, 2+ pulses, no edema.  mild erythema bilateral
   ankles, R LE foot wrapped, C/D/I.
   Labs / Radiology
   480 K/uL
   8.3 g/dL
   93 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.8 mEq/L
   15 mg/dL
   103 mEq/L
   141 mEq/L
   25.5 %
   9.0 K/uL
        [image002.jpg]
                            [**2126-12-20**]  09:14 PM
                            [**2126-12-21**]  04:20 AM
   WBC
   9.0
   Hct
   25.5
   Plt
   480
   Cr
   0.6
   TCO2
   37
   Glucose
   93
   Other labs: Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Imaging: [**2126-12-20**] CXR: ?bilateral pleural effusions, not grosely
   changed from prior (will need to f/u formal read)
   Microbiology: [**2126-12-20**] BCx, UCx, Wound Cx - pending.
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   53M admitted from NH with fevers, agitation, and right foot erythema.
   .
   # altered mental status - referred to [**Hospital1 54**] [**2-11**] fevers and increased
   agitation over past week in the setting of not sleeping.  medication
   changes include attempts to increase risperdal to 7.5mg tid without
   apparent benefit.  at present, he is calm.  alert to voice, but unable
   to answer questions given his current mode of ventilation.  labs
   notable for mild leukocytosis.  UA with few bacteria only.  DDx most
   likely is occult infection versus medication effect.  ECG without acute
   changes.  No obvious PNA on CXR, but cannot exclude lower lobe
   process.  Will proceed as follows:
   - f/u blood, urine, foot wound cultures.
   - f/u final read of CXR.
   - repeat stool cultures for c. diff.
   - minimize sedating medications, maintain sleep/wake cycle, treat
   constipation, urinary retention prn.
   - add-on ESR/CRP to r/o osteomyelitis, and f/u foot XRAY, though feel
   unlikely.
   - would consider LP in AM, though bacterial meningitis seems less
   likely presently given time course, and presentation, however, he is on
   chronic steroid therapy.
   - continue po vancomycin for now, obtain culture data from NH if
   available, repeat stool cultures here, and d/c if no evidence of cdiff.
   - add-on LFTs.
   .
   # COPD - s/p trach - continue home regimen of prednisone, and
   inhalers.
   - wean MMV as tolerated in AM, seems to be on this now more [**2-11**] mental
   status rather than oxygenation.  Was on [**10-14**] of PS at prior discharge.
   - continue bactrim prophylaxis, calcium, vitamin d.
   .
   # right ulnar/humerus fracture - continue pain control per home regimen
   (tylenol, fentanyl patch, klonopin), calcium, vitamin d.  elbow brace
   recently removed.
   .
   # h/o ?seizure - during last admission, seen by neurology, and felt to
   have clinical seizures although his EEG WNL.
   - continue keppra.
   .
   # DM2 - cover with SSI.
   .
   # diastolic CHF - clinically euvolemic, though ?pleural effusions on
   CXR are new.
   - follow-up final read CXR.
   .
   # s/p multiple fracture, chronic LBP - continue home regimen of pain
   control prn.
   .
   # anxiety/agitation - for now will continue regimen of olanzapine, but
   will reduce to 5mg po tid for agitation, continue klonopin, and
   consider discussing with psych in AM if agitation remains an issue.
   .
   # metabolic alkalosis - chronic, likely [**2-11**] respiratory disease.
   # leukocytosis - w/u infectious causes as above.  could also be [**2-11**]
   steroids, though chronic.
   .
   # FEN: No IVF, replete electrolytes, continue TF.
   # Prophylaxis: heparin allergy, on fondaparinux for dvt ppx.
   # Access: midline (placed at rehab?)
   # Code:  will need to readdress with family in AM, recorded as both DNH
   but not DNR and CODE STATUS DNR on transfer form.
   # Communication: Sister [**Name (NI) 2153**] [**Name (NI) 10534**] is HCP [**Telephone/Fax (1) 11104**] (cell)
   # Disposition: pending clinical improvement

2126-12-22 08:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: fever, altered mental status.
   24 Hour Events:
 URINE CULTURE - At [**2126-12-21**] 01:00 PM
 BLOOD CULTURED - At [**2126-12-21**] 01:31 PM
   venipuncture
 MULTI LUMEN - START [**2126-12-21**] 04:04 PM
   -Spoke to sister - HCP - [**Name (NI) 11126**] [**Name (NI) 10534**] [**Telephone/Fax (1) 11127**] - patient is FULL
   CODE and she wants all interventions done for him. she wants to be
   updated, call her with any events/developments.  She would like to be
   called on [**12-22**] with update
   -Contact at [**Hospital **] rehab: [**Doctor First Name 11116**] (NP) [**Telephone/Fax (1) 11117**]
   -Avoid haldol per sister d/t side effects (twitches, confusion)
   -on vanco PO for c.diff, and vanco IV for cellulitis
   -due to persistent hypotension, patient had R subclavian line placed,
   Neo not needed.
   - pt's HCT dropped today (24 -> 17, repeated 19), resulting in the
   patient being transfused 2U PRBCs with post-transfusion HCT of 31;
   Given this increase, it is likely that the 17 and 19 HCTs were falsely
   low. CT abd was ordered to evaluate for any site of occult bleeding.
   Hemolysis labs (LDH, direct and indirect bilirubin) did not suggest
   hemolysis.
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2126-12-21**] 06:22 PM
   Infusions:
   Other ICU medications:
   Fondaparinux - [**2126-12-21**] 10:00 AM
   Lansoprazole (Prevacid) - [**2126-12-21**] 10:30 AM
   Lorazepam (Ativan) - [**2126-12-21**] 10:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-12-22**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.6
   HR: 86 (63 - 113) bpm
   BP: 116/82(90) {76/48(55) - 129/87(96)} mmHg
   RR: 14 (14 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 10 (9 - 13)mmHg
   Total In:
                                                                  4,659 mL
                                                                    172 mL
   PO:
   TF:
                                                                    568 mL
                                                                     91 mL
   IVF:
                                                                  3,290 mL
                                                                     81 mL
   Blood products:
                                                                    571 mL
   Total out:
                                                                  1,245 mL
                                                                    250 mL
   Urine:
                                                                  1,215 mL
                                                                    250 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  3,414 mL
                                                                    -78 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 370 (104 - 473) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 20 cmH2O
   Plateau: 14 cmH2O
   Compliance: 56.3 cmH2O/mL
   SpO2: 100%
   ABG: ///30/
   Ve: 5.5 L/min
   Physical Examination
   General: Somnolent but arousable and responsive to commands, NAD
   CV: RRR, no m/g/r
   Lungs: CTA no wheezes
   Abdomen:  s/nt/nd +BS
   Ext: R LE wrapped, C/D/I, no pedal edema.
   Labs / Radiology
   411 K/uL
   10.0 g/dL
   107 mg/dL
   0.4 mg/dL
   30 mEq/L
   3.6 mEq/L
   11 mg/dL
   104 mEq/L
   141 mEq/L
   31.0 %
   11.0 K/uL
        [image002.jpg]
                            [**2126-12-20**]  09:14 PM
                            [**2126-12-21**]  04:20 AM
                            [**2126-12-21**]  01:00 PM
                            [**2126-12-21**]  02:16 PM
                            [**2126-12-21**]  07:58 PM
                            [**2126-12-22**]  03:27 AM
   WBC
   9.0
   11.0
   Hct
   25.5
   17.7
   19.5
   31.3
   31.0
   Plt
   480
   411
   Cr
   0.6
   0.4
   TCO2
   37
   Glucose
   93
   107
   Other labs: Alk Phos / T Bili:/0.4, LDH:395 IU/L, Ca++:9.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Imaging: CT abd [**12-21**]- no RPA
   CXR [**12-22**] pnd
   Microbiology: None new
   Assessment and Plan
 NAUSEA / VOMITING
 HYPOTENSION (NOT SHOCK)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   53M with recent PEA arrest, tracheomalacia, chronically
   ventilator-dependent, admitted from [**Hospital 12**] Rehab with fevers,
   agitation, hypotension, and right foot erythema.
   .
   # Altered mental status - referred to [**Hospital1 54**] [**2-11**] fevers and increased
   agitation over past week in the setting of not sleeping.  medication
   changes include attempts to increase risperdal to 7.5mg tid without
   apparent benefit.  at present, he is calm.  alert to voice, but unable
   to answer questions given his current mode of ventilation.  labs
   notable for mild leukocytosis.  UA with few bacteria only.  DDx most
   likely is occult infection versus medication effect.  ECG without acute
   changes.  No obvious PNA on CXR, but cannot exclude lower lobe
   process.  Likely mental status changes [**2-11**] hypotension, as patient
   mental status significantly improved with increased blood pressure.
   - start Vanc IV for cellulitis x5d
   - continue po vancomycin for now
   - repeat stool cultures for c. diff.
   - obtain culture data from [**Hospital 12**] Rehab, repeat stool cultures here,
   and d/c if no evidence of cdiff.
   - f/u blood, urine, foot wound cultures.
   - f/u final read of CXR.
   - Call sister and [**Hospital 12**] Rehab regarding baseline mental status (waxing
   and [**Doctor Last Name 42**]?)
   - minimize sedating medications, maintain sleep/wake cycle, treat
   constipation, urinary retention prn.
   - add-on ESR/CRP to r/o osteomyelitis, and f/u foot XRAY, though feel
   unlikely.
   - Avoid Haldol for agitation
   - considered LP, but think bacterial meningitis seems less likely
   presently given time course, and presentation, however, he is on
   chronic steroid therapy. If no improvement, can re-consider.
   .
   #Hypotension:  Improved following subclavian line placement without
   need for Neosynephrine.  Currently resolved.
   - monitor daily HCTs
    - will monitor for now and attempt to manage with fluid boluses
   - pt
s cortisol 2.1 this AM
started IV Hydrocortisone [**12-21**] for
   adrenal insufficiency; continue at current dose for now
   .
   # COPD - s/p trach - continue home regimen of prednisone, and
   inhalers.
   - wean MMV as tolerated, seems to be on this now more [**2-11**] mental status
   rather than oxygenation.  Was on [**10-14**] of PS at prior discharge.
   - continue bactrim prophylaxis, calcium, vitamin d.
   .
   # right ulnar/humerus fracture - continue pain control per home regimen
   (tylenol, fentanyl patch, klonopin), calcium, vitamin d.  elbow brace
   recently removed.
   .
   # h/o ?seizure - during last admission, seen by neurology, and felt to
   have clinical seizures although his EEG WNL.
   - continue keppra.
   .
   # DM2 - cover with SSI.
   .
   # diastolic CHF - clinically euvolemic, though ?pleural effusions on
   CXR are new.
   - follow-up final read CXR.
   .
   # s/p multiple fracture, chronic LBP - continue home regimen of pain
   control prn.
   .
   # anxiety/agitation - for now will continue regimen of olanzapine, but
   will reduce to 5mg po tid for agitation, continue klonopin, and
   consider discussing with psych in AM if agitation remains an issue.
   .
   # metabolic alkalosis - chronic, likely [**2-11**] respiratory disease.
   # leukocytosis - w/u infectious causes as above.  could also be [**2-11**]
   steroids, though chronic.
   .
   # FEN: No IVF, replete electrolytes, continue TF.
   # Prophylaxis: heparin allergy, on fondaparinux for dvt ppx.
   # Access: midline (placed at rehab?), subclavian central line
   # Code:  Full Code per sister [**Name (NI) 11131**] [**Name (NI) 10534**] (HCP)
   # Communication: Sister [**Name (NI) 2153**] [**Name (NI) 10534**] is HCP [**Telephone/Fax (1) 11104**] (cell)
   # Disposition: pending clinical improvement.  Speak to Case Management
   re: possible discharge to [**Hospital 12**] Rehab tomorrow if stable

2126-12-22 12:08:00 Physician Attending Progress Note
Chief Complaint: Septic shock, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Hct bumped to 31 with 2 units of blood
   More awake overnight but now somnolent
   24 Hour Events:
 URINE CULTURE - At [**2126-12-21**] 01:00 PM
 BLOOD CULTURED - At [**2126-12-21**] 01:31 PM
   venipuncture
 MULTI LUMEN - START [**2126-12-21**] 04:04 PM
   BP stablilized yesterdy afternoon off pressors after CVL placement
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2126-12-21**] 06:22 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2126-12-21**] 10:11 PM
   Other medications:
   per ICU resdient note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: No(t) Tachycardia
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2126-12-22**] 12:07 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 83 (61 - 113) bpm
   BP: 126/79(91) {76/51(57) - 130/87(96)} mmHg
   RR: 14 (14 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 10 (9 - 13)mmHg
   Total In:
                                                                  4,659 mL
                                                                    409 mL
   PO:
   TF:
                                                                    568 mL
                                                                    156 mL
   IVF:
                                                                  3,290 mL
                                                                    118 mL
   Blood products:
                                                                    571 mL
   Total out:
                                                                  1,245 mL
                                                                    460 mL
   Urine:
                                                                  1,215 mL
                                                                    460 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  3,414 mL
                                                                    -51 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 370 (104 - 473) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   Plateau: 14 cmH2O
   Compliance: 56.3 cmH2O/mL
   SpO2: 98%
   ABG: ///30/
   Ve: 6.4 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, R foot dressed
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   411 K/uL
   107 mg/dL
   0.4 mg/dL
   30 mEq/L
   3.6 mEq/L
   11 mg/dL
   104 mEq/L
   141 mEq/L
   31.0 %
   11.0 K/uL
        [image002.jpg]
                            [**2126-12-20**]  09:14 PM
                            [**2126-12-21**]  04:20 AM
                            [**2126-12-21**]  01:00 PM
                            [**2126-12-21**]  02:16 PM
                            [**2126-12-21**]  07:58 PM
                            [**2126-12-22**]  03:27 AM
   WBC
   9.0
   11.0
   Hct
   25.5
   17.7
   19.5
   31.3
   31.0
   Plt
   480
   411
   Cr
   0.6
   0.4
   TCO2
   37
   Glucose
   93
   107
   Other labs: Alk Phos / T Bili:/0.4, LDH:395 IU/L, Ca++:9.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 NAUSEA / VOMITING
 HYPOTENSION (NOT SHOCK)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   53 yo man who is well-known to the MICU service, s/p a PEA arrest with
   prolonged post-arrest course in [**Month (only) **] and [**Month (only) **] of this year.  Readmiited
   to MICU with fevers, agitation, hypotension in setting of R foot lesion
   (I and D in ED).
   1. Septic shock: Blood pressure stable off of pressors.  Cont
   vancomycin for foot cellulitis x days.  Cont stress dose steroids for 1
   more day.
   2. Anemia: Had large Hct bump with 2 units of pRBCs.  CT abd not c/w RP
   bleed.  Do not suspect acute bleed - low Hct may be in setting of
   chronically low Hct plus hemodilution.  Will cont to follow with daily
   Hcts.
   3. Respiratory Failure: Unclear is he was doing any TM trials at [**Hospital1 723**].
   Will try to pressure support trials while he is here.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-12-22**] 10:47 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2126-12-21**] 12:10 AM
   22 Gauge - [**2126-12-21**] 03:27 AM
   Multi Lumen - [**2126-12-21**] 04:04 PM
   Prophylaxis:
   DVT: (fondaparinux)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2126-12-23 07:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Podiatry Recs:  R foot hematoma without evidence of infection s/p I&D
   [**12-20**], no evidence of osteo on XR.  Signing off for now.
   - 500cc bolus bc patient looked dry, asking for water
   - Called [**Hospital **] Rehab and said mental status waxes and wanes, nl BP in
   110's and 120's, vent setting at rehab appear to be:
   R14, Vt 500, Peep 5, FIO2 30% -> 50%
   - [**Hospital 12**] Rehab BCx [**12-19**] negative, UCx [**12-18**] negative
   - Called sister and gave update. Sister reports pt interactive, alert,
   good mental status until 10-12 days ago when pt was given haldol, then
   cognitive decline over last 2 weeks. She is coming in [**Doctor First Name **] this week to
   visit pt.
   - C. diff ordered
   - Patient with two episodes of emesis overnight, once with suctioning.
   Tube feeds held.  Subsequently with decreased UOP.
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2126-12-22**] 08:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2126-12-22**] 08:07 AM
   Fondaparinux - [**2126-12-22**] 08:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-12-23**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.1
C (98.8
   HR: 60 (60 - 107) bpm
   BP: 116/74(85) {104/67(76) - 136/84(94)} mmHg
   RR: 22 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 5 (2 - 10)mmHg
   Total In:
                                                                  2,181 mL
                                                                    138 mL
   PO:
   TF:
                                                                    716 mL
   IVF:
                                                                    940 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                    983 mL
                                                                    420 mL
   Urine:
                                                                    883 mL
                                                                    320 mL
   NG:
                                                                    100 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,198 mL
                                                                   -282 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 59 (59 - 1,294) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Vent Dependant
   PIP: 31 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: ///34/
   Ve: 5.4 L/min
   Physical Examination
   General: Somnolent but arousable but non-interactive, NAD
   CV: RRR, no m/g/r
   Lungs: CTAB no wheezes
   Abdomen:  s/nt/nd +BS
   Ext: R LE wrapped with increased erythema but no calor or induration,
   C/D/I, no pedal edema.
   Labs / Radiology
   395 K/uL
   10.3 g/dL
   111 mg/dL
   0.4 mg/dL
   34 mEq/L
   3.5 mEq/L
   9 mg/dL
   103 mEq/L
   144 mEq/L
   31.5 %
   11.9 K/uL
        [image002.jpg]
                            [**2126-12-20**]  09:14 PM
                            [**2126-12-21**]  04:20 AM
                            [**2126-12-21**]  01:00 PM
                            [**2126-12-21**]  02:16 PM
                            [**2126-12-21**]  07:58 PM
                            [**2126-12-22**]  03:27 AM
                            [**2126-12-23**]  01:42 AM
   WBC
   9.0
   11.0
   11.9
   Hct
   25.5
   17.7
   19.5
   31.3
   31.0
   31.5
   Plt
   [**Telephone/Fax (3) 11135**]
   Cr
   0.6
   0.4
   0.4
   TCO2
   37
   Glucose
   93
   107
   111
   Other labs: PT / PTT / INR:11.9/25.4/1.0, Alk Phos / T Bili:/0.4,
   Albumin:3.1 g/dL, LDH:395 IU/L, Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.9
   mg/dL
   Imaging: [**12-23**] cxr - no significant interval change
   Microbiology: [**12-23**] C diff pnd
   [**12-21**] - bcx pnd
   Assessment and Plan
 NAUSEA / VOMITING
 HYPOTENSION (NOT SHOCK)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   53M with recent PEA arrest, tracheomalacia, chronically
   ventilator-dependent, admitted from [**Hospital 12**] Rehab with fevers,
   agitation, hypotension, and right foot erythema.
   .
   # Altered mental status - referred to [**Hospital1 54**] [**2-11**] fevers and increased
   agitation over past week in the setting of not sleeping.  medication
   changes include attempts to increase risperdal to 7.5mg tid without
   apparent benefit.  at present, he is calm.  alert to voice, but unable
   to answer questions given his current mode of ventilation.  labs
   notable for mild leukocytosis.  UA with few bacteria only.  DDx most
   likely is occult infection versus medication effect.  ECG without acute
   changes.  No obvious PNA on CXR, but cannot exclude lower lobe
   process.  Likely mental status changes [**2-11**] hypotension, as patient
   mental status significantly improved with increased blood pressure.  No
   osteomyelitis.
   - start Vanc IV for cellulitis x5d
   - continue po vancomycin for now until C. diff results back
   - f/u blood, urine, foot wound cultures.
   - minimize sedating medications, maintain sleep/wake cycle, treat
   constipation, urinary retention prn.
   - Avoid Haldol for agitation
   .
   #Hypotension:  Improved following subclavian line placement without
   need for Neosynephrine.  Currently resolved.
   - pt
s cortisol 2.1 this AM
started IV Hydrocortisone [**12-21**] for
   adrenal insufficiency; switch to home dose for now and recommend slowly
   titrating off home steroids for COPD on discharge
   .
   # Emesis:  Likely [**2-11**] slow gastric emptying given nausea and subsequent
   emesis with tube feeds.  Also likely [**2-11**] gag reflex given one episode
   was during suctioning.
   - Cautious re-initiation of tube feeds today
   - Reglan for nausea and to increase gastric motility
   - Fluids as necessary if patient has large volume losses with repeated
   emesis
   .
   # COPD - s/p trach - continue home regimen of prednisone, and
   inhalers.
   - wean MMV as tolerated, seems to be on this now more [**2-11**] mental status
   rather than oxygenation.  Was on [**10-14**] of PS at prior discharge.
   - continue bactrim prophylaxis, calcium, vitamin d.
   .
   # right ulnar/humerus fracture - continue pain control per home regimen
   (tylenol, fentanyl patch, klonopin), calcium, vitamin d.  elbow brace
   recently removed.
   .
   # h/o ?seizure - during last admission, seen by neurology, and felt to
   have clinical seizures although his EEG WNL.
   - continue keppra.
   .
   # DM2 - cover with SSI.
   .
   # diastolic CHF - clinically euvolemic, though ?pleural effusions on
   CXR are new.
   - follow-up final read CXR.
   .
   # s/p multiple fracture, chronic LBP - continue home regimen of pain
   control prn.
   .
   # anxiety/agitation - for now will continue regimen of olanzapine, but
   will reduce to 5mg po tid for agitation, continue klonopin, and
   consider discussing with psych in AM if agitation remains an issue.
   Also, per nursing, likely significant component of depression given
   patient is withdrawn and non-interactive with what appears to be
   depressed mood.
   - Contact sister regarding initiating Celexa 20mg for depression
   .
   # metabolic alkalosis - chronic, likely [**2-11**] respiratory disease.
   # leukocytosis - w/u infectious causes as above.  could also be [**2-11**]
   steroids, though chronic.
   .
   # FEN: No IVF, replete electrolytes, continue TF.
   # Prophylaxis: heparin allergy, on fondaparinux for dvt ppx.
   # Access: midline (placed at rehab?), subclavian central line
   # Code:  Full Code per sister [**Name (NI) 11131**] [**Name (NI) 10534**] (HCP)
   # Communication: Sister [**Name (NI) 2153**] [**Name (NI) 10534**] is HCP [**Telephone/Fax (1) 11104**] (cell)
   # Disposition: pending clinical improvement.  Speak to Case Management
   re: possible discharge to [**Hospital 12**] Rehab tomorrow if stable.  Include in
   d/c summary that we recommend slow weaning of home steroids on
   discharge.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2126-12-21**] 12:10 AM
   22 Gauge - [**2126-12-21**] 03:27 AM
   Multi Lumen - [**2126-12-21**] 04:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-12-23 10:37:00 Physician Attending Progress Note
Chief Complaint: Septic shock, Anemia, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tube feed held overnight - has not been tolerating
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2126-12-22**] 08:00 PM
   Infusions:
   Other ICU medications:
   Fondaparinux - [**2126-12-23**] 08:39 AM
   Lansoprazole (Prevacid) - [**2126-12-23**] 08:39 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2126-12-23**] 10:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.2
   HR: 87 (60 - 107) bpm
   BP: 94/62(69) {94/62(69) - 136/84(94)} mmHg
   RR: 14 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 5 (2 - 9)mmHg
   Total In:
                                                                  2,181 mL
                                                                    374 mL
   PO:
   TF:
                                                                    716 mL
   IVF:
                                                                    940 mL
                                                                    104 mL
   Blood products:
   Total out:
                                                                    983 mL
                                                                    565 mL
   Urine:
                                                                    883 mL
                                                                    465 mL
   NG:
                                                                    100 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,198 mL
                                                                   -192 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 59 (59 - 1,294) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Vent Dependant
   PIP: 31 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: ///34/
   Ve: 5.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.3 g/dL
   395 K/uL
   111 mg/dL
   0.4 mg/dL
   34 mEq/L
   3.5 mEq/L
   9 mg/dL
   103 mEq/L
   144 mEq/L
   31.5 %
   11.9 K/uL
        [image002.jpg]
                            [**2126-12-20**]  09:14 PM
                            [**2126-12-21**]  04:20 AM
                            [**2126-12-21**]  01:00 PM
                            [**2126-12-21**]  02:16 PM
                            [**2126-12-21**]  07:58 PM
                            [**2126-12-22**]  03:27 AM
                            [**2126-12-23**]  01:42 AM
   WBC
   9.0
   11.0
   11.9
   Hct
   25.5
   17.7
   19.5
   31.3
   31.0
   31.5
   Plt
   [**Telephone/Fax (3) 11135**]
   Cr
   0.6
   0.4
   0.4
   TCO2
   37
   Glucose
   93
   107
   111
   Other labs: PT / PTT / INR:11.9/25.4/1.0, Alk Phos / T Bili:/0.4,
   Albumin:3.1 g/dL, LDH:395 IU/L, Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
 NAUSEA / VOMITING
 HYPOTENSION (NOT SHOCK)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   53 yo man who is well-known to the MICU service, s/p a PEA arrest with
   prolonged post-arrest course in [**Month (only) **] and [**Month (only) **] of this year.  Readmiited
   to MICU with fevers, agitation, hypotension in setting of R foot lesion
   (I and D in ED).
   1. Septic shock: Resolved.  Cont vancomycin for foot cellulitis x 5
   days.  D/C stress dose steroids.  po vanco until c. diff back.
   2. Anemia: Hct now stable
   3. Respiratory Failure: Cont MMV.  He is taking minimal tidal volumes
   when switched to PSV - consistent with significant chronic respiratory
   muscle weakness.
   4. Nutrition: Not tolerating TFs at the moment.  [**Name2 (NI) **] retry today.  prn
   Reglan
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2126-12-21**] 12:10 AM
   22 Gauge - [**2126-12-21**] 03:27 AM
   Multi Lumen - [**2126-12-21**] 04:04 PM
   Prophylaxis:
   DVT: Fondaparimux
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2126-12-24 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - changed IV steroids to his home med of 7mg prednisone (for COPD)
   - [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 11146**]: [**Hospital 12**] Rehab primary care doc: [**Telephone/Fax (1) 11147**] (pager).
   concerned about leukocytosis and fevers.
   - agitated mid-day, gave extra zyprexa and tylenol and morphine for
   back pain (chronic); improved.
   - consider fentanyl patch for chronic low back pain (on it at rehab,
   but held here for AMS originally), and/or PO opiate?
   - talk to case manager in AM, consider d/c back to rehab (but need to
   re-screen for a bed) on [**12-24**]
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2126-12-23**] 10:44 PM
   Infusions:
   Other ICU medications:
   Fondaparinux - [**2126-12-23**] 08:39 AM
   Lansoprazole (Prevacid) - [**2126-12-23**] 08:39 AM
   Morphine Sulfate - [**2126-12-23**] 02:32 PM
   Lorazepam (Ativan) - [**2126-12-23**] 03:52 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-12-24**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.2
   HR: 88 (71 - 110) bpm
   BP: 92/67(73) {83/58(63) - 129/87(95)} mmHg
   RR: 19 (14 - 35) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 65 Inch
    CVP: 6 (4 - 7)mmHg
   Total In:
                                                                    998 mL
                                                                    222 mL
   PO:
   TF:
                                                                     38 mL
   IVF:
                                                                    540 mL
                                                                    127 mL
   Blood products:
   Total out:
                                                                  1,275 mL
                                                                    420 mL
   Urine:
                                                                  1,175 mL
                                                                    420 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                   -277 mL
                                                                   -198 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 349 (45 - 509) mL
   PS : 10 cmH2O
   RR (Set): 6
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 122
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///36/
   Ve: 5.6 L/min
   Physical Examination
   General Appearance: General: Somnolent but arousable but
   non-interactive, NAD
   CV: RRR, no m/g/r
   Lungs: CTAB no wheezes
   Abdomen:  s/nt/nd +BS
   Ext: R LE wrapped with increased erythema but no calor or induration,
   C/D/I, no pedal edema.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   412 K/uL
   10.7 g/dL
   89 mg/dL
   0.5 mg/dL
   36 mEq/L
   3.6 mEq/L
   8 mg/dL
   103 mEq/L
   142 mEq/L
   34.1 %
   9.3 K/uL
        [image002.jpg]
                            [**2126-12-20**]  09:14 PM
                            [**2126-12-21**]  04:20 AM
                            [**2126-12-21**]  01:00 PM
                            [**2126-12-21**]  02:16 PM
                            [**2126-12-21**]  07:58 PM
                            [**2126-12-22**]  03:27 AM
                            [**2126-12-23**]  01:42 AM
                            [**2126-12-24**]  01:32 AM
   WBC
   9.0
   11.0
   11.9
   9.3
   Hct
   25.5
   17.7
   19.5
   31.3
   31.0
   31.5
   34.1
   Plt
   [**Telephone/Fax (3) 11148**]12
   Cr
   0.6
   0.4
   0.4
   0.5
   TCO2
   37
   Glucose
   93
   107
   111
   89
   Other labs: PT / PTT / INR:11.9/25.4/1.0, Alk Phos / T Bili:/0.4,
   Albumin:3.1 g/dL, LDH:395 IU/L, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:4.2
   mg/dL
   Imaging: CXR [**12-24**] - stable CXR with bilateral atelectasis vs pleural
   effusions vs infiltrates
   Assessment and Plan
 .H/O PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O RESPIRATORY FAILURE, CHRONIC
 NAUSEA / VOMITING
 HYPOTENSION (NOT SHOCK)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   53M with recent PEA arrest, tracheomalacia, chronically
   ventilator-dependent, admitted from [**Hospital 12**] Rehab with fevers,
   agitation, hypotension, and right foot erythema.
   .
   # Altered mental status - referred to [**Hospital1 54**] [**2-11**] fevers and increased
   agitation over past week in the setting of not sleeping.  medication
   changes include attempts to increase risperdal to 7.5mg tid without
   apparent benefit.  at present, he is calm.  alert to voice, but unable
   to answer questions given his current mode of ventilation.  labs
   notable for mild leukocytosis.  UA with few bacteria only.  DDx most
   likely is occult infection versus medication effect.  ECG without acute
   changes.  No obvious PNA on CXR, but cannot exclude lower lobe
   process.  Likely mental status changes [**2-11**] hypotension, as patient
   mental status significantly improved with increased blood pressure.  No
   osteomyelitis.
   - start Vanc IV for cellulitis x5d
   - continue po vancomycin for now until C. diff results back
   - f/u blood, urine, foot wound cultures.
   - minimize sedating medications, maintain sleep/wake cycle, treat
   constipation, urinary retention prn.
   - Avoid Haldol for agitation
   .
   #Hypotension:  Improved following subclavian line placement without
   need for Neosynephrine.  Currently resolved.
   - pt
s cortisol 2.1 this AM
started IV Hydrocortisone [**12-21**] for
   adrenal insufficiency; switch to home dose for now and recommend slowly
   titrating off home steroids for COPD on discharge
   .
   # Emesis:  Likely [**2-11**] slow gastric emptying given nausea and subsequent
   emesis with tube feeds.  Also likely [**2-11**] gag reflex given one episode
   was during suctioning.
   - Cautious re-initiation of tube feeds today
   - Reglan for nausea and to increase gastric motility
   - Fluids as necessary if patient has large volume losses with repeated
   emesis
   .
   # COPD - s/p trach - continue home regimen of prednisone, and
   inhalers.
   - wean MMV as tolerated, seems to be on this now more [**2-11**] mental status
   rather than oxygenation.  Was on [**10-14**] of PS at prior discharge.
   - continue bactrim prophylaxis, calcium, vitamin d.
   .
   # right ulnar/humerus fracture - continue pain control per home regimen
   (tylenol, fentanyl patch, klonopin), calcium, vitamin d.  elbow brace
   recently removed.
   .
   # h/o ?seizure - during last admission, seen by neurology, and felt to
   have clinical seizures although his EEG WNL.
   - continue keppra.
   .
   # DM2 - cover with SSI.
   .
   # diastolic CHF - clinically euvolemic, though ?pleural effusions on
   CXR are new.
   - follow-up final read CXR.
   .
   # s/p multiple fracture, chronic LBP - continue home regimen of pain
   control prn.
   .
   # anxiety/agitation - for now will continue regimen of olanzapine, but
   will reduce to 5mg po tid for agitation, continue klonopin, and
   consider discussing with psych in AM if agitation remains an issue.
   Also, per nursing, likely significant component of depression given
   patient is withdrawn and non-interactive with what appears to be
   depressed mood.
   - Contact sister regarding initiating Celexa 20mg for depression
   .
   # metabolic alkalosis - chronic, likely [**2-11**] respiratory disease.
   # leukocytosis - w/u infectious causes as above.  could also be [**2-11**]
   steroids, though chronic.
   .
   # FEN: No IVF, replete electrolytes, continue TF.
   # Prophylaxis: heparin allergy, on fondaparinux for dvt ppx.
   # Access: midline (placed at rehab?), subclavian central line
   # Code:  Full Code per sister [**Name (NI) 11131**] [**Name (NI) 10534**] (HCP)
   # Communication: Sister [**Name (NI) 2153**] [**Name (NI) 10534**] is HCP [**Telephone/Fax (1) 11104**] (cell)
   # Disposition: pending clinical improvement.  Speak to Case Management
   re: possible discharge to [**Hospital 12**] Rehab tomorrow if stable.  Include in
   d/c summary that we recommend slow weaning of home steroids on
   discharge.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2126-12-21**] 12:10 AM
   22 Gauge - [**2126-12-21**] 03:27 AM
   Multi Lumen - [**2126-12-21**] 04:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-12-24 11:58:00 Physician Attending Progress Note
Chief Complaint: Septic shock, Anemia, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Somnolent after 1mg of Ativan --> but attentive and interactive earlier
   today
   24 Hour Events:
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2126-12-24**] 10:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2126-12-23**] 02:32 PM
   Fondaparinux - [**2126-12-24**] 09:00 AM
   Lorazepam (Ativan) - [**2126-12-24**] 10:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Respiratory: mechanical ventilation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2126-12-24**] 11:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.5
   HR: 93 (71 - 110) bpm
   BP: 102/80(85) {83/58(63) - 129/87(95)} mmHg
   RR: 26 (15 - 35) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 65 Inch
   CVP: 6 (4 - 6)mmHg
   Total In:
                                                                    998 mL
                                                                    552 mL
   PO:
   TF:
                                                                     38 mL
   IVF:
                                                                    540 mL
                                                                    367 mL
   Blood products:
   Total out:
                                                                  1,275 mL
                                                                    590 mL
   Urine:
                                                                  1,175 mL
                                                                    590 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                   -277 mL
                                                                    -38 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 476 (202 - 509) mL
   PS : 10 cmH2O
   RR (Set): 6
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 88
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///36/
   Ve: 4.6 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   412 K/uL
   89 mg/dL
   0.5 mg/dL
   36 mEq/L
   3.6 mEq/L
   8 mg/dL
   103 mEq/L
   142 mEq/L
   34.1 %
   9.3 K/uL
        [image002.jpg]
                            [**2126-12-20**]  09:14 PM
                            [**2126-12-21**]  04:20 AM
                            [**2126-12-21**]  01:00 PM
                            [**2126-12-21**]  02:16 PM
                            [**2126-12-21**]  07:58 PM
                            [**2126-12-22**]  03:27 AM
                            [**2126-12-23**]  01:42 AM
                            [**2126-12-24**]  01:32 AM
   WBC
   9.0
   11.0
   11.9
   9.3
   Hct
   25.5
   17.7
   19.5
   31.3
   31.0
   31.5
   34.1
   Plt
   [**Telephone/Fax (3) 11148**]12
   Cr
   0.6
   0.4
   0.4
   0.5
   TCO2
   37
   Glucose
   93
   107
   111
   89
   Other labs: PT / PTT / INR:11.9/25.4/1.0, Alk Phos / T Bili:/0.4,
   Albumin:3.1 g/dL, LDH:395 IU/L, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:4.2
   mg/dL
   Assessment and Plan
 .H/O PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O RESPIRATORY FAILURE, CHRONIC
 NAUSEA / VOMITING
 HYPOTENSION (NOT SHOCK)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   53 yo man who is well-known to the MICU service, s/p a PEA arrest with
   prolonged post-arrest course in [**Month (only) **] and [**Month (only) **] of this year.  Readmiited
   to MICU with fevers, agitation, hypotension in setting of R foot lesion
   (I and D in ED).
   1. Septic shock: Resolved.  Cont vancomycin for foot cellulitis x 5
   days.  D/C po vanc --> 1 negative c. diff
   2. Anemia: Hct now stable
   3. Respiratory Failure: Cont MMV - at moment not below min resp rate
   and maintaining minute ventilation at 10/5.  On baseline steroid dose.
   4. Nutrition: Still not tolerating TFs and remains nauseated.  Will
   give Reglan standing
   Screeing for return to [**Hospital1 723**]
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2126-12-21**] 12:10 AM
   Multi Lumen - [**2126-12-21**] 04:04 PM
   Prophylaxis:
   DVT: (fondaparinux)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2126-12-25 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: fever, altered mental status
   24 Hour Events:
 STOOL CULTURE - At [**2126-12-24**] 10:00 AM
   c diff
 MULTI LUMEN - STOP [**2126-12-24**] 12:30 PM
   - Wrote for Tramadol, Lidocaine patch, standing Tylenol for back pain
   - [**Hospital 12**] rehab gave away pt's bed; will likely have bed tomorrow
   ([**12-24**]) with adequate contact precautions
   - C. diff pending; will dc PO vanc if negative.
   - Started Celexa 20mg PO daily for pt's anxiety.
   - Sister updated.
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2126-12-24**] 08:39 PM
   Infusions:
   Other ICU medications:
   Fondaparinux - [**2126-12-24**] 09:00 AM
   Lorazepam (Ativan) - [**2126-12-24**] 06:00 PM
   Other medications:
   Flowsheet Data as of  [**2126-12-25**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.5
   HR: 91 (78 - 110) bpm
   BP: 104/74(80) {100/60(69) - 135/86(94)} mmHg
   RR: 24 (13 - 38) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
                  Total In:
                                                                  1,120 mL
                                                                     60 mL
   PO:
                  TF:
   IVF:
                                                                    575 mL
   Blood products:
   Total out:
                                                                  1,360 mL
                                                                    550 mL
   Urine:
                                                                  1,360 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -240 mL
                                                                   -490 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 349 (131 - 476) mL
   PS : 10 cmH2O
   RR (Set): 6
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Vent Dependant
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: ///35/
   Ve: 6 L/min
   Physical Examination
   General: Alert, interactive, NAD, answers questions appropriately,
   moving all ext
   CV: RRR, no m/g/r
   Lungs: CTAB no wheezes
   Abdomen:  very soft, non-distended, no TTP, +BS
   Ext: Improved R LE with bandage C/D/I, no pedal edema.
   Labs / Radiology
   421 K/uL
   11.2 g/dL
   90 mg/dL
   0.5 mg/dL
   35 mEq/L
   3.4 mEq/L
   8 mg/dL
   100 mEq/L
   141 mEq/L
   33.9 %
   9.5 K/uL
        [image002.jpg]
                            [**2126-12-20**]  09:14 PM
                            [**2126-12-21**]  04:20 AM
                            [**2126-12-21**]  01:00 PM
                            [**2126-12-21**]  02:16 PM
                            [**2126-12-21**]  07:58 PM
                            [**2126-12-22**]  03:27 AM
                            [**2126-12-23**]  01:42 AM
                            [**2126-12-24**]  01:32 AM
                            [**2126-12-25**]  05:40 AM
   WBC
   9.0
   11.0
   11.9
   9.3
   9.5
   Hct
   25.5
   17.7
   19.5
   31.3
   31.0
   31.5
   34.1
   33.9
   Plt
   [**Telephone/Fax (3) 11148**]12
   421
   Cr
   0.6
   0.4
   0.4
   0.5
   0.5
   TCO2
   37
   Glucose
   93
   107
   111
   89
   90
   Other labs: PT / PTT / INR:12.8/26.7/1.1, ALT / AST:24/28, Alk Phos / T
   Bili:63/0.4, Albumin:3.1 g/dL, LDH:359 IU/L, Ca++:9.1 mg/dL, Mg++:1.8
   mg/dL, PO4:4.4 mg/dL
   Imaging: CXR [**12-25**]
   CXR [**12-24**] In comparison with the study of [**12-23**], there is little
   overall change. Monitoring and support devices remain in place.
   ardiomediastinal silhouette is stable and there is no change in the
   appearance of the bilateral pleural effusions and bibasilar
   atelectasis. No interval development of pulmonary edema.
   Microbiology: C. diff negative x 2 ([**12-22**] and 14)
   Assessment and Plan
 .H/O PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O RESPIRATORY FAILURE, CHRONIC
 NAUSEA / VOMITING
 HYPOTENSION (NOT SHOCK)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   53M with recent PEA arrest, tracheomalacia, chronically
   ventilator-dependent, admitted from [**Hospital 12**] Rehab with fevers,
   agitation, hypotension, and right foot erythema.
   .
   # Altered mental status - referred to [**Hospital1 54**] [**2-11**] fevers and increased
   agitation over past week in the setting of not sleeping.  medication
   changes include attempts to increase risperdal to 7.5mg tid without
   apparent benefit.  at present, he is calm.  alert to voice, but unable
   to answer questions given his current mode of ventilation.  labs
   notable for mild leukocytosis.  UA with few bacteria only.  DDx most
   likely is occult infection versus medication effect.  ECG without acute
   changes.  No obvious PNA on CXR, but cannot exclude lower lobe
   process.  Likely mental status changes [**2-11**] hypotension, as patient
   mental status significantly improved with increased blood pressure.  No
   osteomyelitis on xray of right foot; improving LE erythema.
   - start Vanc IV for cellulitis x5d, D1=[**12-21**] to d/c [**12-25**]
   - on po vancomycin, can d/c now that 2 neg c. diff back
   - f/u blood, urine, foot wound cultures.
   - minimize sedating medications, maintain sleep/wake cycle, treat
   constipation, urinary retention prn.
   - Avoid Haldol for agitation
   .
   #Hypotension:  Improved following subclavian line placement without
   need for Neosynephrine.  Currently resolved.
   - pt
s cortisol AM 2.1
started IV Hydrocortisone [**12-21**] for adrenal
   insufficiency; switch to home dose po Prednisone for now and recommend
   slowly titrating off home steroids for COPD on discharge.
   .
   # Nausea/Emesis:  Likely [**2-11**] slow gastric emptying given nausea and
   subsequent emesis with tube feeds.  Also likely [**2-11**] gag reflex given
   one episode was during suctioning.  Also contributing is his
   significant anxiety and depression
   - re-initiation of tube feeds yesterday
   - standing Reglan, Zofran prn
   - Fluids as necessary if patient has large volume losses with repeated
   emesis
   - Initiate Celexa 20mg daily; spoke to sister who was ok with the plan
   - Cont Ativan prn
   .
   # anxiety/agitation - for now will continue regimen of olanzapine, but
   will reduce to 5mg po tid for agitation, continue klonopin, and
   consider discussing with psych in AM if agitation remains an issue.
   Also, per nursing, likely significant component of depression given
   patient is withdrawn and non-interactive with what appears to be
   depressed mood.  As above.
   - Celexa 20mg for depression
   .
   # COPD - s/p trach - continue home regimen of prednisone, and
   inhalers.
   - wean MMV as tolerated, seems to be on this now more [**2-11**] mental status
   rather than oxygenation.  Was on [**10-14**] of PS at prior discharge.
   - continue bactrim prophylaxis, calcium, vitamin d.
   .
   # right ulnar/humerus fracture - continue pain control per home regimen
   (tylenol, klonopin), calcium, vitamin d.  elbow brace recently removed.
   - Started Tramadol, Lidocaine patch, standing Tylenol for back pain
   .
   # h/o ? seizure - during last admission, seen by neurology, and felt to
   have clinical seizures although his EEG WNL.
   - continue keppra.
   .
   # DM2 - cover with SSI.
   .
   # diastolic CHF - clinically euvolemic, though ?pleural effusions on
   CXR are new.
   - follow-up final read CXR.
   .
   # s/p multiple fracture, chronic LBP - continue home regimen of pain
   control prn.
   .
   # metabolic alkalosis - chronic, likely [**2-11**] respiratory disease.
   # leukocytosis - w/u infectious causes as above.  could also be [**2-11**]
   steroids, though chronic.
   .
   # FEN: No IVF, replete electrolytes, re-start TF gently.
   # Prophylaxis: heparin allergy, on fondaparinux for dvt ppx.
   # Access: midline (placed at rehab?), subclavian central line removed
   # Code:  Full Code per sister [**Name (NI) 11131**] [**Name (NI) 10534**] (HCP)
   # Communication: Sister [**Name (NI) 2153**] [**Name (NI) 10534**] is HCP [**Telephone/Fax (1) 11104**] (cell)
   # Disposition: pending clinical improvement.  Speak to Case Management
   re: possible discharge to [**Hospital 12**] Rehab tomorrow if stable.  Include in
   d/c summary that we recommend slow weaning of home steroids on
   discharge.

2126-12-25 11:07:00 Physician Attending Progress Note
Chief Complaint: Septic shock, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   MS appears improved
   C/O nausea
   24 Hour Events:
 STOOL CULTURE - At [**2126-12-24**] 10:00 AM
   c diff
 MULTI LUMEN - STOP [**2126-12-24**] 12:30 PM
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2126-12-25**] 07:56 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2126-12-25**] 10:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2126-12-25**] 11:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 101 (82 - 110) bpm
   BP: 101/67(74) {92/60(66) - 135/86(94)} mmHg
   RR: 27 (13 - 38) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  1,120 mL
                                                                    380 mL
   PO:
             TF:
   IVF:
                                                                    575 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,360 mL
                                                                    670 mL
   Urine:
                                                                  1,360 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -240 mL
                                                                   -290 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 349 (131 - 401) mL
   PS : 10 cmH2O
   RR (Set): 6
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Vent Dependant
   PIP: 7 cmH2O
   Plateau: 11 cmH2O
   SpO2: 98%
   ABG: ///35/
   Ve: 5 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Tender: reports diffuse tenderness but belly soft - no
   expresion of pain with distracted abd exam
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.2 g/dL
   421 K/uL
   90 mg/dL
   0.5 mg/dL
   35 mEq/L
   3.4 mEq/L
   8 mg/dL
   100 mEq/L
   141 mEq/L
   33.9 %
   9.5 K/uL
        [image002.jpg]
                            [**2126-12-20**]  09:14 PM
                            [**2126-12-21**]  04:20 AM
                            [**2126-12-21**]  01:00 PM
                            [**2126-12-21**]  02:16 PM
                            [**2126-12-21**]  07:58 PM
                            [**2126-12-22**]  03:27 AM
                            [**2126-12-23**]  01:42 AM
                            [**2126-12-24**]  01:32 AM
                            [**2126-12-25**]  05:40 AM
   WBC
   9.0
   11.0
   11.9
   9.3
   9.5
   Hct
   25.5
   17.7
   19.5
   31.3
   31.0
   31.5
   34.1
   33.9
   Plt
   [**Telephone/Fax (3) 11148**]12
   421
   Cr
   0.6
   0.4
   0.4
   0.5
   0.5
   TCO2
   37
   Glucose
   93
   107
   111
   89
   90
   Other labs: PT / PTT / INR:12.8/26.7/1.1, ALT / AST:24/28, Alk Phos / T
   Bili:63/0.4, Albumin:3.1 g/dL, LDH:359 IU/L, Ca++:9.1 mg/dL, Mg++:1.8
   mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 .H/O PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O RESPIRATORY FAILURE, CHRONIC
 NAUSEA / VOMITING
 HYPOTENSION (NOT SHOCK)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   53 yo man who is well-known to the MICU service, s/p a PEA arrest with
   prolonged post-arrest course in [**Month (only) **] and [**Month (only) **] of this year.  Readmiited
   to MICU with fevers, agitation, hypotension in setting of R foot lesion
   (I and D in ED).
   1. Septic shock: Resolved.
   2. Anemia: Hct stable
   3. Respiratory Failure: Cont MMV - he has not any success with vent
   weaning for several months.
   4. Nutrition: Remains nauseated.  Cont standing Reglan.  Restart TFs
   slowly.
   Screening for return to [**Hospital1 723**]
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2126-12-21**] 12:10 AM
   Prophylaxis:
   DVT: (fondaparinux)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill